US04764202
100 g of 2,3,4-trichlorobenzotrifluoride are initially introduced, 200 ml of pyridine are added, followed by 100 g of hydrazine hydrate and the mixture is then heated to the reflux temperture for 12 hours. Thereafter, 90% of the pyridine is distilled off and the remaining residue is stirred into 250 ml of water. The crystalline product is filtered off under suction, washed with a little water and dried. 78 g of 2,3-dichloro-4-trifluoromethyl-phenylhydrazine having a melting point of 79° to 80° C. are obtained.

reactant | 2,3,4-trichlorobenzotrifluoride | 100 g | ClC1=C(C=CC(=C1Cl)Cl)C(F)(F)F | C7H2Cl3F3
reactant | hydrazine hydrate | 100 g | O.NN
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 2,3-dichloro-4-trifluoromethyl-phenylhydrazine | 78 g | ClC1=C(C=CC(=C1Cl)C(F)(F)F)NN | C7H5Cl2F3N2
